US07538931B2
Hrk=1-(Chloromethyl)-4-aza-1-azoniabicyclo[2.2.2]octane bromide
20 ml Of acetone, 4.0 g of 1,4-diazabicyclo[2.2.2]octane, and 20 ml of bromochloromethane, were added to a flask, capped, and stirred at room temperature. Within 45 minutes white precipitate had formed. After 3.5 hours the mixture was cooled to 0-5 C, filtered, washed with three 10 ml portions of cold acetone, and dried under reduced pressure overnight. 2.31 g Of a white solid was obtained.

reactant | 1,4-diazabicyclo[2.2.2]octane | 4.0 g | N12CCN(CC1)CC2 | C6H12N2
reactant | bromochloromethane | 20 ml | BrCCl | CH2BrCl
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-(Chloromethyl)-4-aza-1-azoniabicyclo[2.2.2]octane bromide | 2.31 g | [Br-].ClC[N+]12CCN(CC1)CC2 | InChI=1S/C7H14ClN2.BrH/c8-7-10-4-1-9(2-5-10)3-6-10;/h1-7H2;1H/q+1;/p-1
